US08648066B2
To a mixture of 1,1-dimethylethyl 7-(2-{[(methyloxy)carbonyl]amino}-3H-imidazo[4,5-b]pyridin-6-yl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate (0.52 g, 1.2 mmol) was taken into acetonitrile (5 mL) followed by addition of 4M hydrogen chloride in 1,4-dioxane (5 mL) and the mixture was stirred at room temperature for 10 minutes. The reaction mixture was concentrated to give a white solid. It was washed with ether then dried to give methyl [6-(2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)-1H-imidazo[4,5-b]pyridin-2-yl]carbamate hydrochloride salt (0.40 g, 100% yield), MS (EI) for C17H17N5O3: 340 (MH+).

reactant | 1,1-dimethylethyl 7-(2-{[(methyloxy)carbonyl]amino}-3H-imidazo[4,5-b]pyridin-6-yl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 1.2 mmol, 0.52 g | COC(=O)NC1=NC=2C(=NC=C(C2)C=2C=CC3=C(CN(CCO3)C(=O)OC(C)(C)C)C2)N1 | C22H25N5O5
reactant | acetonitrile | 5 mL | C(C)#N | C2H3N
reactant | hydrogen chloride | 4M | Cl | ClH
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | methyl [6-(2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)-1H-imidazo[4,5-b]pyridin-2-yl]carbamate hydrochloride salt | 0.40 g, 100% yield | Cl.O1CCNCC2=C1C=CC(=C2)C=2C=C1C(=NC2)N=C(N1)NC(OC)=O | InChI=1S/C17H17N5O3.ClH/c1-24-17(23)22-16-20-13-7-11(9-19-15(13)21-16)10-2-3-14-12(6-10)8-18-4-5-25-14;/h2-3,6-7,9,18H,4-5,8H2,1H3,(H2,19,20,21,22,23);1H
